US06930185B2
The 6-(methoxycarbonyl)-2-naphthalenecarboxylic acid (5.00 g, 21.7 mmol) obtained in the above 1) and triethylamine (3.93 ml, 28.2 mmol) were dissolved in tert-butylalcohol (55 ml), diphenylphosphoryl azide (5.62 ml, 26.1 mmol) was added thereto, and the mixture was stirred at room temperature for 30 minutes and at 100° C. for 6 hours. To the reaction solution were added ethyl acetate and an aqueous saturated sodium bicarbonate solution, and the mixture was extracted with ethyl acetate. The extract was washed with a 10% aqueous citric acid solution and an aqueous saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting crude carbamate was dissolved in tetrahydrofuran (50 ml), lithium aluminum hydride (728 mg, 19.2 mmol) was added under ice-cooling, and the mixture was stirred at room temperature for 3 hours. To the reaction solution were added ethyl acetate and a 10% aqueous citric acid solution, the mixture was extracted, the organic layer was washed with an aqueous saturated sodium chloride solution, dried over anhydrous sodium sulfate, concentrated under reduced pressure, the residue was purified by silica gel column chromatography (developing solvent: toluene: ethyl acetate=10:1), and the eluent was crystallized from n-hexane to obtain tert-butyl 6-(hydroxymethyl)-2-naphthylcarbamate (2.26 g) as a white powder.

reactant | 6-(methoxycarbonyl)-2-naphthalenecarboxylic acid | 21.7 mmol, 5.00 g | COC(=O)C=1C=C2C=CC(=CC2=CC1)C(=O)O | C13H10O4
reactant | triethylamine | 28.2 mmol, 3.93 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 26.1 mmol, 5.62 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | lithium aluminum hydride | 19.2 mmol, 728 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tert-butylalcohol | 55 ml | C(C)(C)(C)O | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 6-(hydroxymethyl)-2-naphthylcarbamate | 2.26 g | OCC=1C=C2C=CC(=CC2=CC1)NC(OC(C)(C)C)=O | C16H19NO3
